US07709509B2
2.3 g crude 2-{4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-chloro-phenyl}-N-hydroxy-acetamidine were dissolved in 30 ml dichloromethane. 0.46 ml pyridine and 0.71 ml phenylchloroformate were added and the mixture stirred at room temperature for ten minutes. The mixture was diluted by the addition of 150 ml ethyl acetate, washed with brine and dried over MgSO4. The solvent was evaporated in vacuo. The resulting residue was dissolved in 20 ml acetonitrile and 0.70 ml 1,8-Diazabicyclo[5.4.0]undec-7-ene were added. The mixture was stirred at room temperature for 10 minutes. The mixture was evaporated in vacuo and the resulting crude material was purified by reversed phase HPLC to obtain 820 mg 3-{4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-chloro-benzyl}-4H-[1,2,4]oxadiazol-5-one as an amorphous lyophilisate.

reactant | 2-{4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-chloro-phenyl}-N-hydroxy-acetamidine | 2.3 g | C(CCC)C=1N=C(SC1COC1=CC(=C(C=C1)CC(=N)NO)Cl)C1=CC=C(C=C1)C(F)(F)F | C23H23ClF3N3O2S
reactant | pyridine | 0.46 ml | N1=CC=CC=C1 | C5H5N
reactant | phenylchloroformate | 0.71 ml | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-{4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-chloro-benzyl}-4H-[1,2,4]oxadiazol-5-one | 820 mg | C(CCC)C=1N=C(SC1COC1=CC(=C(CC2=NOC(N2)=O)C=C1)Cl)C1=CC=C(C=C1)C(F)(F)F | C24H21ClF3N3O3S
